US05281614
Step A: 3-Fluoro-4-methyl-2'-(N-t-butylsulfamoyl)biphenyl
The palladium (0)-catalyzed coupling of 4-bromo-2-fluorotoluene with 2-(N-t-butylsulfamoyl)phenylboronic acid was carried out according to the procedure of Example 28 Step F. Purification of the crude product by flash chromatography (elution with hexane-EtOAc) gave a 92% yield of the title compound as an off-white foam (TLC in 4:1 hexane-EtOAc); mass spectrum (FAB) m/e 322 (M+1)+.

reactant | 4-bromo-2-fluorotoluene | BrC1=CC(=C(C=C1)C)F | C7H6BrF
reactant | 2-(N-t-butylsulfamoyl)phenylboronic acid | C(C)(C)(C)NS(=O)(=O)C1=C(C=CC=C1)B(O)O | C10H16BNO4S
catalyst | palladium (0) | [Pd] | Pd
product | 3-Fluoro-4-methyl-2'-(N-t-butylsulfamoyl)biphenyl | 92% yield | FC=1C=C(C=CC1C)C1=C(C=CC=C1)S(NC(C)(C)C)(=O)=O | C17H20FNO2S
